US04792565
Ethyl 1-methyl-5-methoxypyrazole-4-carboxylate (1.4 g) was stirred at room temperature for 2 hours together with 30 ml of ethanol, 10 ml of water and 2 g of potassium hydroxide. Ethanol was removed from the reaction solution under reduced pressure. From the aqueous layer, 1.29 g (yield 99%) of the desired 1-methyl-5-methoxypyrazole-4-carboxylic acid was obtained by acid precipitation.

reactant | Ethyl 1-methyl-5-methoxypyrazole-4-carboxylate | 1.4 g | CN1N=CC(=C1OC)C(=O)OCC | C8H12N2O3
reactant | ethanol | 30 ml | C(C)O | C2H6O
reactant | potassium hydroxide | 2 g | [OH-].[K+]
solvent | water | 10 ml | O | H2O
product | 1-methyl-5-methoxypyrazole-4-carboxylic acid | 1.29 g, yield 99% | CN1N=CC(=C1OC)C(=O)O | C6H8N2O3
